US08492414B2
2,6-Difluoro-3-[3-(4-trifluoromethoxyphenyl)-[1,2,4]thiadiazol-5-ylmethoxy]-benzamide: (VI-c)
To a solution of 5-bromomethyl-3-(4-trifluoromethoxyphenyl)-[1,2,4]thiadiazole (0.11 g, 0.32 mmol) in DMF (5 ml) was added 2,6-difluoro-3-hydroxybenzamide (0.056 g, 0.32 mmol) and potassium carbonate (0.16 g, 1.13 mmol). The reaction mixture was stirred at 25° C. for 12 h under nitrogen atmosphere. After the completion of the reaction (TLC monitoring), the reaction mixture was evaporated to dryness under vacuum, added 30 ml water and extracted with ethyl acetate (3×20 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified over silica gel (100-200 M, 50% EtOAc-Hexane) to get the desired product (0.013 g, 9%).

reactant | 5-bromomethyl-3-(4-trifluoromethoxyphenyl)-[1,2,4]thiadiazole | 0.32 mmol, 0.11 g | BrCC1=NC(=NS1)C1=CC=C(C=C1)OC(F)(F)F | C10H6BrF3N2OS
reactant | 2,6-difluoro-3-hydroxybenzamide | 0.32 mmol, 0.056 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 1.13 mmol, 0.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2,6-Difluoro-3-[3-(4-trifluoromethoxyphenyl)-[1,2,4]thiadiazol-5-ylmethoxy]-benzamide | 0.013 g, 9% | FC1=C(C(=O)N)C(=CC=C1OCC1=NC(=NS1)C1=CC=C(C=C1)OC(F)(F)F)F | C17H10F5N3O3S
